US06630593B1
Ethylammonium chloride(8.16 g, 0.1 mol) and 1,3-dihydroxyacetone dimer(18 g, 0.1 mol) were suspended in 70 ml of isopropanol and then, potassium thiocyanate(14.6 g, 0.15 mol) was added thereto. To the above suspension was added dropwise acetic acid(19.22 g, 0.32 mol) and the mixture was stirred at room temperature for 24 hours To the above reaction solution was added 50 ml of distilled water. The whole mixture was further stirred for 30 minutes, filtered and washed twice with 50 ml of distilled water and 50 ml of isopropyl ether, respectively, to obtain a white solid powder. The obtained powder was dried for 3 hours to give 12.8 g(Yield 81.0%) of 1-ethyl-2-mercapto-5-hydroxymethylimidazole.

reactant | Ethylammonium chloride | 0.1 mol, 8.16 g | [Cl-].C(C)[NH3+]
reactant | 1,3-dihydroxyacetone dimer | 0.1 mol, 18 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanate | 0.15 mol, 14.6 g | [S-]C#N.[K+]
reactant | acetic acid | 0.32 mol, 19.22 g | C(C)(=O)O | C2H4O2
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
solvent | water | 50 ml | O | H2O
product | 1-ethyl-2-mercapto-5-hydroxymethylimidazole | 12.8 g, Yield 81.0% | C(C)N1C(=NC=C1CO)S | C6H10N2OS
